US07205326B2
Preparation of 4-(3-[1,2,3]Triazol-1-yl-propoxy)-phenylamine
1-[3-(4-Nitro-phenoxy)-propyl]-1H-[1,2,3]triazole (2.87 g, 11.6 mmol) is dissolved in THF (40 ml) and hydrogenated for 2.5 h in the presence of palladium on charcoal (10%, 500 mg). After filtration and concentration in vacuo 4-(3-[1,2,3]Triazol-1-yl-propoxy)-phenylamine can be isolated as orange oil which is precipitated with diethyl ether. Yield 2.48 g (98%)

reactant | 1-[3-(4-Nitro-phenoxy)-propyl]-1H-[1,2,3]triazole | 11.6 mmol, 2.87 g | [N+](=O)([O-])C1=CC=C(OCCCN2N=NC=C2)C=C1 | C11H12N4O3
solvent | THF | 40 ml | C1CCOC1 | C4H8O
catalyst | palladium on charcoal | 500 mg | [Pd] | Pd
product | 4-(3-[1,2,3]Triazol-1-yl-propoxy)-phenylamine | N1(N=NC=C1)CCCOC1=CC=C(C=C1)N | C11H14N4O
